US05919793
3-[2-(4-formyl-2-allylphenyl)ethynyl]quinuclidin-3-ol (1.0 g) and methoxylamine hydrochloride were dissolved in ethanol (35 ml) and the mixture stirred at 25° C. for 12 hours. The ethanol was evaporated and the residue crystallised from ethyl acetate to give 3-[2-(4-methoxyiminomethyl-2-allylphenyl)ethynyl]quinuclidin-3-ol hydrochloride as a solid, m.p. 143° C.; microanalysis, found: C, 64.7; H, 7.0; N, 8.0% C20H24N2O2HCl. 0.5H2O requires C, 64.9; H, 7.0; N, 7.6% NMR ([CD3 ]2SO/CD3COOD): 1.5-2.3 (5H, m), 3.2 (4H, t), 3.4 (1H, d), 3.6 (1H, dd), 3.9 (3H, s), 5.1 (2H, m), 6.0 (1H, m), 7.5 (3H, m) and 8.2 (1H, s), m/z 325 (M+H).

reactant | 3-[2-(4-formyl-2-allylphenyl)ethynyl]quinuclidin-3-ol | 1.0 g | C(=O)C1=CC(=C(C=C1)C#CC1(CN2CCC1CC2)O)CC=C | C19H21NO2
reactant | methoxylamine hydrochloride | Cl.O(C)N
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 3-[2-(4-methoxyiminomethyl-2-allylphenyl)ethynyl]quinuclidin-3-ol hydrochloride | Cl.CON=CC1=CC(=C(C=C1)C#CC1(CN2CCC1CC2)O)CC=C | InChI=1S/C20H24N2O2.ClH/c1-3-4-18-13-16(14-21-24-2)5-6-17(18)7-10-20(23)15-22-11-8-19(20)9-12-22;/h3,5-6,13-14,19,23H,1,4,8-9,11-12,15H2,2H3;1H
